US08530667B2
A mixture of 4-cyclopentene-1,3-dione (10 g, 104 mmol) and 2-methylfuran (15 ml) are stirred at room temperature for 3 days. Methanol (50 ml) is then added and the solid is collected and dried on a Buchner funnel to give 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione (14.3 g)

reactant | 4-cyclopentene-1,3-dione | 104 mmol, 10 g | C1(CC(C=C1)=O)=O | C5H4O2
reactant | 2-methylfuran | 15 ml | CC=1OC=CC1 | C5H6O
solvent | Methanol | 50 ml | CO | CH4O
product | 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione | 14.3 g | CC12C3C(CC(C3C(C=C1)O2)=O)=O | C10H10O3
